US09029391B2
methyl [(1,1-dimethylethyl)oxy][4-(2,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinyl]acetate
A mixture of methyl 2-(4-(2,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydroisoquinolin-3-yl)-2-hydroxyacetate (858 mg, 2.442 mmol) in t-butyl acetate (20 mL) was treated with perchloric acid (0.147 mL, 2.442 mmol) and stirred at ambient temperature overnight. LCMS indicated only 45% conversion to the desired product. The mixture was made basic by adding 3N sodium hydroxide and then extracted with ethyl acetate. The extracts were washed with water, then brine, dried over sodium sulfate, filtered and concentrated. The residue was purified on silica gel (0-50% ethyl acetate/hexanes gradient) to afford the desired product as a colorless residue (383 mg, 39%). LC/MS (m/z) ES+=408 (M+1).

reactant | methyl 2-(4-(2,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydroisoquinolin-3-yl)-2-hydroxyacetate | 2.442 mmol, 858 mg | CC1=C(C=CC(=C1)C)C1=C(N(C(C2=CC=CC=C12)=O)C)C(C(=O)OC)O | C21H21NO4
reactant | perchloric acid | 2.442 mmol, 0.147 mL | Cl(=O)(=O)(=O)O | ClHO4
solvent | t-butyl acetate | 20 mL | C(C)(=O)OC(C)(C)C | C6H12O2
product | methyl [(1,1-dimethylethyl)oxy][4-(2,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinyl]acetate | CC(C)(C)OC(C(=O)OC)C=1N(C(C2=CC=CC=C2C1C1=C(C=C(C=C1)C)C)=O)C | C25H29NO4
